US06531602B2
After 69 mg (1.18 mmol) of potassium fluoride and 118 mg (1.18 mmol) of potassium hydrogen carbonate were dissolved in 1 ml of methanol, to this solution were added both 2.0 g (17.7 mol) of 30% aqueous hydrogen peroxide and a solution prepared by dissolving, in 1.5 ml of tetrahydrofuran, 165 mg (590 μmol) of dimethyl(5-hydroxy-3,3-dimethylhexyl)(2-pyridyl)silane which had been prepared in the same manner as Example 17. The solution after mixing was continued to be stirred for 22 hours at an inner temperature of 50° C. After cooling to room temperature, 10 ml of water was added to the solution after the reaction, and the mixture was extracted with three portions of 20 ml of diethyl ether. The resulting organic layers were combined together, washed with 20 ml of 15% sodium thiosulfate and dried over sodium sulfate. The solvent was evaporated off under reduced pressure to give crude 2,4,4-trimethyl-2,6-hexanediol. This was purified with a silica gel column using a mixed solvent of hexane/ethyl acetate=1/1 (volume ratio) to give 94 mg of 2,4,4-trimethyl-2,6-hexanediol in the form of colorless oil (Yield: 99%; the purity: >95%).

reactant | potassium fluoride | 1.18 mmol, 69 mg | [F-].[K+]
reactant | potassium hydrogen carbonate | 1.18 mmol, 118 mg | C(O)([O-])=O.[K+]
reactant | hydrogen peroxide | 17.7 mol, 2.0 g | OO | H2O2
reactant | dimethyl(5-hydroxy-3,3-dimethylhexyl)(2-pyridyl)silane | 590 μmol, 165 mg | C[Si](C1=NC=CC=C1)(CCC(CC(C)O)(C)C)C | C15H27NOSi
reactant | methanol | 1 ml | CO | CH4O
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 2,4,4-trimethyl-2,6-hexanediol | 94 mg, Yield: 99% | CC(C)(CC(CCO)(C)C)O | C9H20O2
